US07514468B2
3-Z-[1-(4-carboxy-anilino)-1-phenyl-methylene]-6-chloro-2-indolinone
450 mg of 3-Z-[1-(4-ethoxycarbonyl-anilino)-1-phenyl-methylene]-6-chloro-2-indolinone (educt 1.2) are dissolved in 10 ml of ethanol and 2 ml of 1N sodium hydroxide solution are added. The mixture is stirred for 3 hours at 80° C. After cooling, 2 ml of 1N hydrochloric acid are added and the mixture is stirred for half an hour at ambient temperature. The precipitate formed is suction filtered and washed with ethanol and diethyl ether.

reactant | 3-Z-[1-(4-ethoxycarbonyl-anilino)-1-phenyl-methylene]-6-chloro-2-indolinone | 450 mg | C(C)OC(=O)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)Cl)=O)C=C1 | C24H19ClN2O3
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Z-[1-(4-carboxy-anilino)-1-phenyl-methylene]-6-chloro-2-indolinone | C(=O)(O)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)Cl)=O)C=C1 | C22H15ClN2O3
